US08623889B2
To a suspension of N-(7-(5-amino-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide (196.8 mg, 0.6201 mmol) in 1,2-dichloroethane (6.0 mL, 76 mmol) was added pyridine (0.15 mL, 1.8 mmol) and p-nitrophenyl chloroformate (0.1406 g, 0.6975 mmol). The reaction mixture was stirred at room temperature for 2 hours and then pyridine (0.15 mL, 1.8 mmol) and p-nitrophenyl chloroformate (131.9 mg, 0.6544 mmol) were added. After an additional hour at room temperature, the reaction mixture was evaporated in vacuo and purified via flash chromatography on silica gel (25 g silica, solvent gradient: 0-100% ethyl acetate in heptanes) to yield 114.8 mg (38%) of 4-nitrophenyl 3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenylcarbamate. LCMS (ESI): M+H=483.2; 1H NMR (400 MHz, DMSO-d6) δ 10.87 (s, 1H), 9.16 (s, 1H), 8.47 (s, 1H), 8.10 (d, J=9.0 Hz, 2H), 7.92 (s, 1H), 7.87 (d, J=8.5 Hz, 1H), 7.63 (d, J=8.5 Hz, 1H), 6.97 (d, J=8.7 Hz, 1H), 6.90 (d, J=8.9 Hz, 2H), 6.54 (d, J=5.8 Hz, 2H), 2.14-2.02 (m, 4H), 0.85 (m, 4H).

reactant | N-(7-(5-amino-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.6201 mmol, 196.8 mg | NC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C20H19N3O
reactant | 1,2-dichloroethane | 76 mmol, 6.0 mL | ClCCCl | C2H4Cl2
reactant | pyridine | 1.8 mmol, 0.15 mL | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 0.6975 mmol, 0.1406 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 1.8 mmol, 0.15 mL | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 0.6544 mmol, 131.9 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | 4-nitrophenyl 3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenylcarbamate | 114.8 mg, 38% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C=CC1C)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C27H22N4O5
